US03987158
A solution of sodium cyanide (5.9 g.) in dimethyl sulphoxide (40 ml.) was treated with 3-benzyloxybenzyl chloride (23.2 g.) and the reaction mixture stirred and maintained at 60° for 1 hour. The mixture was poured into water and the product was isolated with ether in the usual manner to give 3-benzyloxyphenylacetonitrile, b.p. 162°-166°/0.55 mm.

reactant | sodium cyanide | 5.9 g | [C-]#N.[Na+]
reactant | 3-benzyloxybenzyl chloride | 23.2 g | C(C1=CC=CC=C1)OC=1C=C(CCl)C=CC1 | C14H13ClO
reactant | water | O | H2O
reactant | ether | CCOCC | C4H10O
solvent | dimethyl sulphoxide | 40 ml | CS(=O)C | C2H6OS
product | 3-benzyloxyphenylacetonitrile | C(C1=CC=CC=C1)OC=1C=C(C=CC1)CC#N | C15H13NO
